US07192968B2
(±)-cis-N1-[[5-[2-(Acetylamino)ethyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(±)-cis-N1-[[5-(2-Aminoethyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride (90 mg) was dissolved in N,N-dimethylformamide (3 ml), triethylamine (65 μl) and acetic anhydride (22 μl) were added, and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and dichloromethane and a 0.3N aqueous solution of sodium hydroxide were added to the residue to conduct liquid separation. The resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=100:3) to obtain a colorless foamy substance. This product was suspended in 1N hydrochloric acid (0.3 ml), and the suspension was concentrated under reduced pressure to obtain the title compound (73 mg) as a pale yellow foamy substance.

reactant | (±)-cis-N1-[[5-(2-Aminoethyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 90 mg | Cl.NCCN1CC2=C(CC1)N=C(S2)C(=O)N[C@H]2[C@H](CCCC2)NC(=O)C=2NC1=CC=C(C=C1C2)Cl
reactant | triethylamine | 65 μl | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 22 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1N, 0.3 ml | Cl | ClH
product | (±)-cis-N1-[[5-[2-(Acetylamino)ethyl]-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl]carbonyl]-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 73 mg | Cl.C(C)(=O)NCCN1CC2=C(CC1)N=C(S2)C(=O)N[C@H]2[C@H](CCCC2)NC(=O)C=2NC1=CC=C(C=C1C2)Cl | InChI=1S/C26H31ClN6O3S.ClH/c1-15(34)28-9-11-33-10-8-21-23(14-33)37-26(32-21)25(36)31-20-5-3-2-4-19(20)30-24(35)22-13-16-12-17(27)6-7-18(16)29-22;/h6-7,12-13,19-20,29H,2-5,8-11,14H2,1H3,(H,28,34)(H,30,35)(H,31,36);1H/t19-,20+;/m0./s1
